US08729068B2
To a mixture of 175 mg of methyl 6-{propyl[(3-{[2-(trimethylsilyl)ethoxy]carbonyl}phenyl)sulfonyl]amino}nicotinate and 5 mL of THF was added dropwise a solution of TBAF in THF (1 M, 0.750 mL), followed by stirring at room temperature for 4 hours. To the reaction mixture was added 0.1 M hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, and then dried over magnesium sulfate. The solvent was evaporated under reduced pressure and then dried under reduced pressure to obtain 110 mg of 3-{[5-(methoxycarbonyl)pyridin-2-yl](propyl)sulfamoyl}benzoic acid as a colorless powder.

reactant | methyl 6-{propyl[(3-{[2-(trimethylsilyl)ethoxy]carbonyl}phenyl)sulfonyl]amino}nicotinate | 175 mg | C(CC)N(C1=NC=C(C(=O)OC)C=C1)S(=O)(=O)C1=CC(=CC=C1)C(=O)OCC[Si](C)(C)C | C22H30N2O6SSi
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | hydrochloric acid | 0.1 M | Cl | ClH
solvent | THF | 1 M, 0.750 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-{[5-(methoxycarbonyl)pyridin-2-yl](propyl)sulfamoyl}benzoic acid | 110 mg | COC(=O)C=1C=CC(=NC1)N(S(=O)(=O)C=1C=C(C(=O)O)C=CC1)CCC | C17H18N2O6S
